US06414145B1
A suspension of methyl 4-[(Z)-3-(imidazol-1-yl)-2-(thiazol-2-yl)-prop-1-enyl]-2-phenyl-benzoate (see this Example, compound a), step B) (1.2 g; 3 mmol) and 10% Pd/C (0.3 g) in MeOH (10 ml) was hydrogenated for 6 hours. After filtration of the catalyst and evaporation to dryness the residue was purified by flash chromatography eluting with CH2Cl2/EtOH (98/2) to give methyl 4-[3-(imidazol-1-yl)-2-(thiazol-2-yl)-propyl]-2-phenyl-benzoate. Yield=25%.

reactant | methyl 4-[(Z)-3-(imidazol-1-yl)-2-(thiazol-2-yl)-prop-1-enyl]-2-phenyl-benzoate | N1(C=NC=C1)C/C(=C/C1=CC(=C(C(=O)OC)C=C1)C1=CC=CC=C1)/C=1SC=CN1 | C23H19N3O2S
solvent | MeOH | 10 ml | CO | CH4O
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | methyl 4-[3-(imidazol-1-yl)-2-(thiazol-2-yl)-propyl]-2-phenyl-benzoate | Yield=25% | N1(C=NC=C1)CC(CC1=CC(=C(C(=O)OC)C=C1)C1=CC=CC=C1)C=1SC=CN1 | C23H21N3O2S
